US07534547B2
In 50 ml of dehydrated pyridine (C5H5N) was dissolved 5.0 g (14.9 mmol) of 2,2-bis(4-hydroxyphenyl)hexafluoropropane, and 8.8 g (31.2 mmol) of trifluoromethanesulfonic anhydride was added to the mixture with cooling with ice. The reaction was carried out at a room temperature for 24 hours. The reaction mixture was poured into an iced water, and the resultant mixture was acidified by adding hydrochloric acid. The resultant solid was collected by filtration, washed with water, dried, and recrystallized from hexane to provide 7.07 g (11.8 mmol) of 2,2-bis[4-(trifluoromethylsulfonyloxy)phenyl]hexafluoropropane.

reactant | 2,2-bis(4-hydroxyphenyl)hexafluoropropane | 14.9 mmol, 5.0 g | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)O | C15H10F6O2
reactant | trifluoromethanesulfonic anhydride | 31.2 mmol, 8.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-bis[4-(trifluoromethylsulfonyloxy)phenyl]hexafluoropropane | 11.8 mmol, 7.07 g | FC(S(=O)(=O)OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)(F)F | C17H8F12O6S2
